US07045624B2
Preparation of β-(o-hydroxyanilino)-m-chloropropiophenone Hydrochloride
Dimethylamino-m-chloropropiophenone hydrochloride (74.9 g, 0.30 mol) was dissolved in 50% aqueous ethanol (700 ml) at reflux. 2-Aminophenol (32.9 g, 0.30 mol) was then added and the resulting red solution was refluxed for a further 2 hours. The reaction mixture was allowed to cool to room temperature and then extracted twice with ethyl acetate (2×100 ml). Note that brine was also added at this point to allow the two layers to separate effectively). The organic extracts were combined and an excess of concentrated hydrochloric acid (47 ml) was added. The solution was concentrated in vacuo and then allowed to cool. The precipitate that formed was filtered of, washed with diethyl ether and dried in vacuo to yield a cream powder (38.1 g, 40%).

reactant | Dimethylamino-m-chloropropiophenone hydrochloride | 0.30 mol, 74.9 g | Cl.CN(C)C(C(=O)C1=CC(=CC=C1)Cl)C
reactant | 2-Aminophenol | 0.30 mol, 32.9 g | NC1=C(C=CC=C1)O | C6H7NO
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | β-(o-hydroxyanilino)-m-chloropropiophenone Hydrochloride | 38.1 g, 40% | Cl.OC1=C(NCCC(=O)C2=CC(=CC=C2)Cl)C=CC=C1 | InChI=1S/C15H14ClNO2.ClH/c16-12-5-3-4-11(10-12)14(18)8-9-17-13-6-1-2-7-15(13)19;/h1-7,10,17,19H,8-9H2;1H
